US07268253B2
2-ethyl-2-hydroxymethylhexanoic acid
113 ml (0.305 mol) of n-butyllithium (2.7 M in heptane) are added dropwise at 0° C. to a solution of 46 ml of disiopropylamine (0.327 mol) in 320 ml of THF and the mixture is stirred at 0° C. for 30 min (Solution 1). 40 g (0.277 mol) of 2-ethylhexanoic acid are added dropwise at 25° to a suspension of 7 g of NaH 95% (0.277 mol) in 320 ml of THF within approx. 15 min, and the reaction mixture is stirred at 50° C. for 30 min (Solution 2). Solution 1 is added at 0° C. to Solution 2 and subsequently heated to 50° C. for 1.5 h. The clear solution is cooled to 0° C. and admixed with 25 g (0.833 mol) of paraformaldehyde. After 10 min, the mixture is stirred at RT for 18 h. The mixture is admixed with saturated aqueous solution of ammonium chloride and adjusted to pH=1-2 with 6N HCl. The organic phase is removed, the aqueous phase is re-extracted 1× with MTBE and the combined organic phases are concentrated on a rotary evaporator. The yield of pure product is 71% (GC).

reactant | n-butyllithium | 0.305 mol, 2.7 M, 113 ml | C(CCC)[Li]
reactant | 2-ethylhexanoic acid | 0.277 mol, 40 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | NaH | 0.277 mol, 7 g | [H-].[Na+]
reactant | paraformaldehyde | 0.833 mol, 25 g | C=O | CH2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | 6N | Cl | ClH
solvent | THF | 320 ml | C1CCOC1 | C4H8O
solvent | THF | 320 ml | C1CCOC1 | C4H8O
product | 2-ethyl-2-hydroxymethylhexanoic acid | C(C)C(C(=O)O)(CCCC)CO | C9H18O3
